US08957089B2
83.1 N-[2-(3-Bromo-4-methoxyphenyl)ethyl]-1-(4-chlorophenyl)cyclobutanecarboxamide
Prepared from 1-(4-chlorophenyl)cyclobutanecarboxylic acid and 2-(3-bromo-4-methoxyphenyl)ethanamine following the procedure described in example 85, step 1.

reactant | 1-(4-chlorophenyl)cyclobutanecarboxylic acid | ClC1=CC=C(C=C1)C1(CCC1)C(=O)O | C11H11ClO2
reactant | 2-(3-bromo-4-methoxyphenyl)ethanamine | BrC=1C=C(C=CC1OC)CCN | C9H12BrNO
product | N-[2-(3-Bromo-4-methoxyphenyl)ethyl]-1-(4-chlorophenyl)cyclobutanecarboxamide | BrC=1C=C(C=CC1OC)CCNC(=O)C1(CCC1)C1=CC=C(C=C1)Cl | C20H21BrClNO2
